US04775692
To a solution of dimethyl 3-methyl-2-oxo-5-heptynylphosphonate (10.0 g, 0.043 mol) in ethyl acetate (100 ml) was added 10% palladium on active carbon (5.0 g) and the mixture was stirred under hydrogen atmosphere for one hour. The reaction mixture was filtered and the filtrate was concentrated. The residue was distilled under reduced pressure to give colorless oily product dimethyl 3-methyl-2-oxo-heptylphosphonate (8.12 g, 0.034 mol, 80%, b.p. 90°-92° C./0.05 mmHg). The structure was identified by the following data.

reactant | dimethyl 3-methyl-2-oxo-5-heptynylphosphonate | 0.043 mol, 10.0 g | CC(C(CP(OC)(OC)=O)=O)CC#CC | C10H17O4P
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium | [Pd] | Pd
product | dimethyl 3-methyl-2-oxo-heptylphosphonate | 0.034 mol, 8.12 g, 80% | CC(C(CP(OC)(OC)=O)=O)CCCC | C10H21O4P
